US05037845
3-[2-(Dimethylamino)ethyl]-2,3-dihydro-N-methyl-1H-indole-5-methanesulphonamide
To a suspension of 3-[2-(dimethylamino)ethyl]-N-methyl-1H-indole-5-methanesulphonamide (0.5 g) in trifluoroacetic acid (15 ml) at -10° was added borane-tetrahydrofuran complex (45 ml; 1M) keeping the temperature below +2°. The resulting suspension was stirred at 0° for 5 min, poured onto saturated potassium carbonate (50 ml) and extracted with ethanol (2×20 ml). The ethanolic extract was evaporated and the residue purified by column chromatography (A) to give the title compound as an oil (80 mg). T.l.c. (N), Rf 0.53 (IPA, CeIV).

reactant | 3-[2-(dimethylamino)ethyl]-N-methyl-1H-indole-5-methanesulphonamide | 0.5 g | CN(CCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC)C | C14H21N3O2S
reactant | potassium carbonate | 50 ml | C([O-])([O-])=O.[K+].[K+]
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(Dimethylamino)ethyl]-2,3-dihydro-N-methyl-1H-indole-5-methanesulphonamide | 80 mg | CN(CCC1CNC2=CC=C(C=C12)CS(=O)(=O)NC)C | C14H23N3O2S
